US05665718
A suspension of 1.5 g (0.0043 mol) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 15 ml of dimethylformamide was treated with 1.6 g (0.022 mol) of diethylamine. After stirring at room temperature for 16 hrs. the solution obtained was freed completely from the solvents. The residue was chromatographed over silica gel with dichloromethane/methanol 9:1 as the eluent. There were obtained 1.33 g (81%) of 3-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one as white crystals; m.p. 172°-174°.

reactant | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.0043 mol, 1.5 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C15H11ClFN5O2
reactant | diethylamine | 0.022 mol, 1.6 g | C(C)NCC | C4H11N
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-(5-diethylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.33 g, 81% | C(C)N(CC)CC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C19H21FN6O2
